US07282583B2
Step 7. Production of 5,11-dihydro-11-ethyl-5-methyl-8-{2-(4-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one
3.47 g NaOH and 40 ml toluene were charged into a three-neck flask equipped with temperature couple and addition funnel. The mixture was brought to 20° C. Next, 10.02 g of N-(2-chloro(3-pyridyl))[2-(ethylamino)-5-(2-(4-quinolyloxy)ethyl)(3-pyridyl)]-N-methylcarboxamide and 0.7 g tetrabutylammonium bromide were dissolved in 50 ml of toluene at 60-70° C. and allowed to cool to room temperature. The solution of N-(2-chloro(3-pyridyl))[2-(ethylamino)-5-(2-(4-quinolyloxy)ethyl)(3-pyridyl)]-N-methylcarboxamide and TBAB was charged to the addition funnel and slowly added to the slurry from NaOH in Toluene. The reaction mixture was kept at 20-30° C. and stirred overnight. Reaction monitoring was performed with HPLC. During the reaction the product crystallized from the reaction mixture. In the event that the reaction had not completed after 16 h the reaction mixture was heated up to 30° C. and kept there until the reaction was complete. The reaction mixture was quenched with 25 ml saturated NH4Cl solution. A temperature increase from 20.8° C. to 25.5° C. was observed. The reaction mixture was heated to 85-90° C. The precipitate dissolved upon heating and a slow release of a gas (Ammonia) was observed. Phase separation at 85-90° C. was performed. The lower aqueous layer was analyzed for product and pH (target: pH=6) and then discarded. 41 ml of toluene/water (about 40 ml toluene, 1 ml water) was azeotropically distilled off the solution under reduced pressure. The solution was slowly cooled to room temp., then to 0° C. and stirred for at least 30 min at 0° C. to complete crystallization. The crystals were collected by filtration and washed twice with 10 ml of cooled toluene at 0° C. Crude Yield: 8.436 g; yellowish to off-white crystals. The off-white to yellow product was dried at 50° C. under vacuum over night.

reactant | NaOH | 3.47 g | [OH-].[Na+]
reactant | N-(2-chloro(3-pyridyl))[2-(ethylamino)-5-(2-(4-quinolyloxy)ethyl)(3-pyridyl)]-N-methylcarboxamide | 10.02 g | ClC1=NC=CC=C1N(C(=O)C=1C(=NC=C(C1)CCOC1=CC=NC2=CC=CC=C12)NCC)C | C25H24ClN5O2
catalyst | tetrabutylammonium bromide | 0.7 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | TBAB | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 5,11-dihydro-11-ethyl-5-methyl-8-{2-(4-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCOC3=CC=NC1=CC=CC=C31)=O)C)C=CC=N2 | C25H23N5O2
